US06548503B1
a) 2,3-dihydro-5(4-Fluorophenyl)-6-(pyridin-4-yl)pyrazine
The compound, 1-(4-Fluorophenyl)-2-(pyridin-4-yl)ethanedione, the procedure of which may be found in U.S. Pat. No. 5,656,644, Example 13(b) whose disclosure is incorporated herein by reference in its entirety, (0.2 g, 0.87 mmol), and 1,2-diaminoethane (0.1 g, 1.67 mmol) were dissolved in methylene chloride (1 mL) and stirred under argon at 23° C. for about 12 hours. The solvent was removed in vacuo and the residue was chromatographed on silica gel eluted with 1-3% methanol in methylene chloride. Recrystallization from methylene chloride hexane gave the title compound as an yellow crystalline solid. ES (+) MS m/e=254 (MH+)

reactant | 1-(4-Fluorophenyl)-2-(pyridin-4-yl)ethanedione | FC1=CC=C(C=C1)C(C(=O)C1=CC=NC=C1)=O | C13H8FNO2
reactant | 1,2-diaminoethane | 1.67 mmol, 0.1 g | NCCN | C2H8N2
solvent | methylene chloride | 1 mL | C(Cl)Cl | CH2Cl2
product | 2,3-dihydro-5(4-Fluorophenyl)-6-(pyridin-4-yl)pyrazine | FC1=CC=C(C=C1)C1=NCCN=C1C1=CC=NC=C1 | C15H12FN3
